US09422281B2
Step 1. 2,4-difluorophenyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate
A 1.5 mL reaction vial was charged with (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethan-1-one (0.2 M in 4:1:1,2-dichloroethane/N,N-disopropylethylamine, 100 μL, 0.02 mmol). Triphosgene (0.4 M solution in 1,2-dichloroethane, 20 μL, 0.008 mmol) was then added, and the reaction mixture was placed on a heater shaker at room temperature for 4 h. 2,4-Difluorophenol (0.2 M solution in 1,4-dioxane, 110 μl, 0.022 mmol) was then added, and the reaction was heated to 50° C. on a heater shaker overnight. Methanol (100 μl) was added and the reaction was placed on a heater shaker at 50° C. for 30 minutes. The reaction was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution. The aqueous layer was separated and washed with ethyl acetate and the combined organic layers were concentrated under a stream of nitrogen and vacuum. The crude product was purified by mass triggered preparatory HPLC. The product, 2,4-difluorophenyl (5)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate, was used without further purification.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)ethan-1-one | 0.02 mmol, 0.2 M, 100 μL | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | Triphosgene | 0.008 mmol, 0.4 M, 20 μL | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4-Difluorophenol | 0.022 mmol, 0.2 M, 110 μl | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | Methanol | 100 μl | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-difluorophenyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1=C(C=C(C=C1)F)F)C | C18H15BrF2N2O3
